US07091232B2
A solution of 2,3-difluorocinnamic acid (2.8 g, 15.2 mol) (commercially available from Lancaster) (Intermediate TWENTY-1) in ethanol (100 mL) was hydrogenated with H2 (balloon) and 10% Pd/C (0.3 g) at rt for 16 h. The mixture was filtered through Celite® and the solvent was evaporated to give 3-(2,3-difluoro-phenyl)-propionic acid as a solid, 2.68 g (98%). A mixture of 3-(2,3-difluoro-phenyl)-propionic acid (2.7 g, 14.4 mmol) in CH2Cl2 at 0° C. was treated with oxalyl chloride (8.7 mL, 2 M in CH2Cl2) and a few drops of DMF. The reaction mixture was stirred for 2 h at rt. The solution was decanted from the dark colored residues and the solvent was removed under vacuum. The residue was dissolved in CH2Cl2 (20 mL) and added to a mixture of AlCl3 (1.92 g, 14.4 mmol) in CH2Cl2 (25 mL). The mixture was heated at 50° C. for 16 h. The entire mixture was poured into ice water. The aqueous phase was removed and extracted with CH2Cl2. The organic layers were combined, washed with sat. NaHCO3 solution, brine, and dried over Na2SO4, filtered, and evaporated to dryness. The residue was purified by chromatography on silica gel with 20% EtOAc:hexane to give 4,5-difluoro-indan-1-one (Intermediate TWENTY-2), 1.65 g (68%).

reactant | 3-(2,3-difluoro-phenyl)-propionic acid | 14.4 mmol, 2.7 g | FC1=C(C=CC=C1F)CCC(=O)O | C9H8F2O2
reactant | oxalyl chloride | 2 M, 8.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 14.4 mmol, 1.92 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4,5-difluoro-indan-1-one | FC1=C2CCC(C2=CC=C1F)=O | C9H6F2O
